US06294690B1
Step A: Preparation of (1-Cyanocylcohexa-2,5-dienyl)acetic Acid Benzyl Ester
Lithium (0.17 g, 24 mmol) was added in portions to a stirred solution of benzonitrile (0.99 mL, 1.0 g, 9.7 mmol) and t-BuOH (0.93 mL, 0.72 g, 9.7 mmol) in NH3 (50 mL) and THF (10 mL) under N2 at −78° C. After stirring for 15 minutes, benzyl-2-bromoacetate (3.1 mL, 4.5 g, 20 mmol) was added dropwise. After 1 hour, ammonium chloride (4.0 g, 75 mmol) was added in portions. The reaction mixture was slowly warmed to room temperature while the NH3 was removed with a stream of N2. Water (25 mL) was added, and the mixture extracted with EtOAc (3×5 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4), and concentrated under reduced pressure. Flash chromatography (SiO2, 1:1-3:1 CH2Cl2:hexane) afforded 1.79 g (73%) of product as an oil.

reactant | Lithium | 24 mmol, 0.17 g | [Li] | Li
reactant | benzonitrile | 9.7 mmol, 0.99 mL, 1.0 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | t-BuOH | 9.7 mmol, 0.93 mL, 0.72 g | CC(C)(C)O | C4H10O
reactant | benzyl-2-bromoacetate | 20 mmol, 3.1 mL, 4.5 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | ammonium chloride | 75 mmol, 4.0 g | [Cl-].[NH4+]
solvent | NH3 | 50 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1-Cyanocylcohexa-2,5-dienyl)acetic Acid Benzyl Ester | 1.79 g, 73% | C(C1=CC=CC=C1)OC(CC1(C=CCC=C1)C#N)=O | C16H15NO2
